US07163988B2
By way of illustration, 4-phenoxyphenol as compound (I) is reacted in concentrated sulfuric acid at room temperature for 3 hr to obtain a sulfonated product. Using 4-phenylphenol or 4-(4-phenoxy)phenoxy phenol, corresponding sulfonated products can be obtained by the same method as above.

reactant | 4-phenoxyphenol | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 4-phenylphenol | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
